US06861427B2
8-{[8-Methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl}-3-[3-(trifluoromethyl)phenyl]-8-azabicyclo[3.2.1]octan-3-ol
(2R)-8-Methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate (0.70 g, 1.8 mmole) and 3-(3-trifluoromethyl-phenyl)-8-azabicyclo[3.2.1]octan-3-ol (0.59 g, 2.4 mmole) were combined in 3 mL of DMSO and heated at 100° C. under nitrogen for 4 hours. After cooling to room temperature, the mixture was partitioned between 400 mL of ethyl acetate and 400 mL of saturated sodium bicarbonate solution. The organic phase was removed, washed with 400 mL of water, dried over magnesium sulfate, filtered and concentrated in vacuum to 1.29 g of a crude oil. The residue was column chromatographed on silica gel using 10% methanol in ethyl acetate as eluant to give 0.30 g of a yellow oil. Crystallization from ethanol/ether with the addition of 0.073 g of fumaric acid gave 0 040 g of the (S)-enantiomer of the title compound as a light yellow solid, m.p. 146-150° C.

reactant | (2R)-8-Methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate | 1.8 mmole, 0.70 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C20H19NO5S
reactant | 3-(3-trifluoromethyl-phenyl)-8-azabicyclo[3.2.1]octan-3-ol | 2.4 mmole, 0.59 g | FC(C=1C=C(C=CC1)C1(CC2CCC(C1)N2)O)(F)F | C14H16F3NO
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 8-{[8-Methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl}-3-[3-(trifluoromethyl)phenyl]-8-azabicyclo[3.2.1]octan-3-ol | 0.30 g | CC1=NC2=CC=C3C(=C2C=C1)OC(CO3)CN3C1CC(CC3CC1)(O)C1=CC(=CC=C1)C(F)(F)F | C27H27F3N2O3
